US04048423
Preparation of 2-t-Butylazo-2-(t-butylperoxycarbonyloxy)butane
To a stirred slurry of 18.9 grams (0.11 mole) potassium t-butylperoxy carbonate in 80 ml. of N,N-dimethylformamide in a 250 ml round bottom flask was slowly added 17.66 grams (0.1 mole)2-t-butylazo-2-chlorobutane. After the addition was complete the reaction was stirred for 5 hours at room temperature and poured into 350 ml water. The product was taken up in 100 ml pentane and the pentane solution washed with 5% HCl, water and saturated sodium bicarbonate solution. The pentane solution was dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure. The residue weighed 22.9 grams (83% yield) and its infrared spectrum was in agreement with the structure of 2-t-butylazo-2-(t-butyl-peroxycarbonyloxy)butane (strong carbonyl band at 1750 cm31 1).

reactant | potassium t-butylperoxy carbonate | 0.11 mole, 18.9 grams | C(OOOC(C)(C)C)([O-])=O.[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-t-butylazo-2-chlorobutane | 0.1 mole, 17.66 grams | C(C)(C)(C)N=NC(C)(CC)Cl | C8H17ClN2
reactant | water | 350 ml | O | H2O
solvent | pentane | 100 ml | CCCCC | C5H12
product | 2-t-Butylazo-2-(t-butylperoxycarbonyloxy)butane | C(C)(C)(C)N=NC(C)(CC)OC(=O)OOC(C)(C)C | C13H26N2O4
